US07906655B2
HATU (10.66 g, 28.0 mmol) was added in one portion to a stirred solution of methyl 2,3-diaminobenzoate (4.1 g, 24.7 mmol), N-Boc-L-proline (5.49 g, 25.5 mmol), and Hunig's base (4.9 mL, 28.0 mmol) in DMF (50 mL). The reaction mixture was stirred 3 h and solvent removed in vacuo, and the residue was diluted with EtOAc, washed with 0.1N HCl, sat'd NaHCO3, brine, dried (Na2SO4), and filtered. Concentration gave a reddish brown viscous oil which was taken up in glacial acetic acid (60 mL) and heated at 60° C. for 16 h. The solvent was removed in vacuo, and the residue was diluted with EtOAc, washed with sat'd NaHCO3 soln, brine, dried (Na2SO4), and filtered. Concentration gave a residue that was divided into two lots, and each lot was pre-adsorbed onto SiO2 (CH2Cl2), applied to a 40 M Biotage SiO2 column, and eluted by gradient 10%-100% B (1440 mL); A=Hex; B=EtOAc to give J1, (S)-methyl 2-(1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-benzo[d]imidazole-7-carboxylate (7.05 g, 83%) as a reddish oil. 1H NMR (500 MHz, DMSO-d6) δ: 7.86 (d, J=7.9 Hz, 1H), 7.78 (t, J=5 Hz, 1H), 7.28-7.24 (m, 1H), 5.20-5.11 (m, 1H), 3.95 (s, 3H), 3.60-3.52 (m, 1H), 3.43-3.38 (m, 1H), 2.33-2.22 (m, 1H), 2.15-2.0 (m, 2H), 1.91-1.86 (m, 1H), 1.40/1.05 (s, 9H). LC (D-Cond. 2): RT=1.86 min; LC/MS Anal. Calcd. for [M+H]+ C18H24N3O4: 346.18. found 346.26. HRMS: Anal. Calcd. for [M+H]+ C18H24N3O4: 346.1767. found: 346.1776.

reactant | HATU | 28.0 mmol, 10.66 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methyl 2,3-diaminobenzoate | 24.7 mmol, 4.1 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | N-Boc-L-proline | 25.5 mmol, 5.49 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | Hunig's base | 28.0 mmol, 4.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | (S)-methyl 2-(1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-benzo[d]imidazole-7-carboxylate | 7.05 g, 83% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1=NC2=C(N1)C(=CC=C2)C(=O)OC | C18H23N3O4
